US07582652B2
(2,2-Dimethylpropyl)-(3-nitro-6-phenylethynylpyridin-2-yl)amine
Dissolve (6-chloro-3-nitropyridin-2-yl)-(2,2-dimethylpropyl)amine (7.3 g, 30.0 mmol), phenylacetylene (5.0 mL, 45 mmol) and triphenylphosphine (1.5 mmol, 0.39 g) in triethylamine (10 mL/g) in an oven-dried round bottom flask is flushed with nitrogen and evacuated three times. Add Pd(OAc)2 (0.10 g, 0.45 mmol) and the nitrogen flush/evacuation cycle is repeated (3×). Heat at 70-80° C. with stirring under nitrogen for 1-3 h, then cool at RT for 2 h. Concentrate and partition between water (25 mL) and EtOAc (150 mL). Separate the organic layer and wash with water (4×25 mL), saturated aqueous NaCl (25 mL), dry with MgSO4, filter, and concentrate. Purify the crude solid by recrystallization from EtOAc/hexanes to give the title product as a bright orange solid (6.5 g, 21.2 mmol, 71%).

reactant | (6-chloro-3-nitropyridin-2-yl)-(2,2-dimethylpropyl)amine | 30.0 mmol, 7.3 g | ClC1=CC=C(C(=N1)NCC(C)(C)C)[N+](=O)[O-] | C10H14ClN3O2
reactant | phenylacetylene | 45 mmol, 5.0 mL | C1(=CC=CC=C1)C#C | C8H6
solvent | triethylamine | C(C)N(CC)CC | C6H15N
catalyst | Pd(OAc)2 | 0.45 mmol, 0.10 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | triphenylphosphine | 1.5 mmol, 0.39 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | (2,2-Dimethylpropyl)-(3-nitro-6-phenylethynylpyridin-2-yl)amine | 21.2 mmol, 6.5 g, 71% | CC(CNC1=NC(=CC=C1[N+](=O)[O-])C#CC1=CC=CC=C1)(C)C | C18H19N3O2
